US05859014
substituting 1-[2-(2,2,2-trifluoroethoxy)phenyl]piperazine and 1-benzyl-3-(3-chloropropyl)-5-trifluoromethyl-2,4(1H,3H)-pyrimidinedione gave 1-benzyl-3-(3-(4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl)propyl)-5-trifluoromethyl-2,4(1H,3H)-pyrimidinedione hydrochloride, m.p. 125°-127° C.; Anal.: Calcd. for C27H28F6N4O3.HCl: C, 52.65; H, 4.91; N, 9.10%; Found: C, 52.44; H, 4.79; N, 8.92%;

reactant | 1-[2-(2,2,2-trifluoroethoxy)phenyl]piperazine | FC(COC1=C(C=CC=C1)N1CCNCC1)(F)F | C12H15F3N2O
reactant | 1-benzyl-3-(3-chloropropyl)-5-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | C(C1=CC=CC=C1)N1C(N(C(C(=C1)C(F)(F)F)=O)CCCCl)=O | C15H14ClF3N2O2
product | 1-benzyl-3-(3-(4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl)propyl)-5-trifluoromethyl-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.C(C1=CC=CC=C1)N1C(N(C(C(=C1)C(F)(F)F)=O)CCCN1CCN(CC1)C1=C(C=CC=C1)OCC(F)(F)F)=O | InChI=1S/C27H28F6N4O3.ClH/c28-26(29,30)19-40-23-10-5-4-9-22(23)35-15-13-34(14-16-35)11-6-12-37-24(38)21(27(31,32)33)18-36(25(37)39)17-20-7-2-1-3-8-20;/h1-5,7-10,18H,6,11-17,19H2;1H
